US04518597
6-[4-(4-Cyclohexyl-phenylsulfinyl)-butoxy]-4,4-diethyl-4H-3,1-benzoxazin-2-one
Prepared analogously to Example 2 from 6-[4-(4-cyclohexyl-phenylmercapto)-butoxy]-4,4-diethyl-4H-3,1-benzoxazin-2-one and hydrogen peroxide.

reactant | 6-[4-(4-cyclohexyl-phenylmercapto)-butoxy]-4,4-diethyl-4H-3,1-benzoxazin-2-one | C1(CCCCC1)C1=CC=C(C=C1)SCCCCOC=1C=CC2=C(C(OC(N2)=O)(CC)CC)C1 | C28H37NO3S
reactant | hydrogen peroxide | OO | H2O2
product | 6-[4-(4-Cyclohexyl-phenylsulfinyl)-butoxy]-4,4-diethyl-4H-3,1-benzoxazin-2-one | C1(CCCCC1)C1=CC=C(C=C1)S(=O)CCCCOC=1C=CC2=C(C(OC(N2)=O)(CC)CC)C1 | C28H37NO4S
